US04467090
Flutroline [R-CH2CH2CH2CHOH(p-FC6H4)]
A solution of 1.16 g 8-fluoro-5-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyryl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.0025 mole) in toluene (35 ml) was stirred under nitrogen while 0.0132 mole of sodium bis(2-methoxyethoxy)aluminum hydride (70% in benzene) was added. The resulting mixture was heated on a steam bath one hour, cooled to room temperature and poured into water, and extracted with ethyl acetate. The organic layer was concentrated in vacuo. The resulting residue was chromatographed on silica gel with ethyl acetate as eluant and monitoring by tlc (two solvent systems: 9:1 CHCl3 :methanol and acetonitrile) with authentic flutroline as control. Product fractions were combined, evaporated to drynes, the residue triturated with diisopropyl ether to yield title product, 175 mg; m.p. 141.5-144; mixed up with authentic flutroline, no depression.

reactant | 8-fluoro-5-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyryl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.0025 mole, 1.16 g | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CCN(C3)C(CCC(O)C3=CC=C(C=C3)F)=O | C27H23F3N2O2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 0.0132 mole | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | water | O | H2O
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | Flutroline | C1=CC(=CC=C1C(CCCN2CCC3=C(C=4C=C(C=CC4N3C=5C=CC(=CC5)F)F)C2)O)F | C27H25F3N2O
